US04588749
3-Carboethoxy-4-(4-methylphenyl)but-2-one (20 g), (prepared by hydrogenation over PtO2 at 1 atmosphere of 3-carboethoxy-4-(4-methylphenyl)but-3-en-2-one) was heated under reflux for 3.5 h in a mixture of glacial acetic acid (48 ml), concentrated hydrochloric acid (5.6 ml) and water (30 ml). The solvent was evaporated, the residue dissolved in xylene, washed with water, dried and evaporated. The residue was distilled to give 4-(4-methylphenyl)butan-2-one, 11.0 g, bp 80-90/1 mm).

reactant | 3-carboethoxy-4-(4-methylphenyl)but-3-en-2-one | C(=O)(OCC)C(C(C)=O)=CC1=CC=C(C=C1)C | C14H16O3
reactant | acetic acid | 48 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 5.6 ml | Cl | ClH
catalyst | PtO2 | O=[Pt]=O
solvent | water | 30 ml | O | H2O
product | 4-(4-methylphenyl)butan-2-one | CC1=CC=C(C=C1)CCC(C)=O | C11H14O
